US07491716B2
6,8-dimethylimidazo[1,2-a]pyridine
Microwave a mixture of 6-methyl-8-bromoimidazo[1,2-a]pyridine (1.0 g, 4.76 mmol), tetramethyl tin (2.0 g, 11.2 mmol), and palladium tetrakis(triphenylphosphine) (0.28 g, 024 mmol) at 120° C. for 10 minutes at 300 watts. Subject the reaction mixture to gel chromatography to provide a quantitative yield of the title compound as a tan oil.

reactant | 6-methyl-8-bromoimidazo[1,2-a]pyridine | 4.76 mmol, 1.0 g | CC=1C=C(C=2N(C1)C=CN2)Br | C8H7BrN2
reactant | tetramethyl tin | 11.2 mmol, 2.0 g | C[Sn](C)(C)C
catalyst | palladium tetrakis(triphenylphosphine) | 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 6,8-dimethylimidazo[1,2-a]pyridine | quantitative yield | CC=1C=C(C=2N(C1)C=CN2)C | C9H10N2
